US08119633B2
1-(4-Methoxyphenylsulfonyl)indoline-2-carboxylic acid S7
Methyl 1-(4-methoxyphenylsulfonyl)indoline-2-carboxylate (47.1 g, 135.6 mmol) was dissolved in a mixture of methanol/dioxane/4 M NaOH (15/4/1,1020 ml, 203.4 mmol NaOH, 1.5 eq.), and further 4 M NaOH (153 ml, 610.2 mmol, 4.5 eq.) was added thereto. The solution was stirred overnight at room temperature and then concentrated using a rotary evaporator. Ethyl acetate was added to the residue, and the mixture was washed with 0.5 M KHSO4. The aqueous phase was extracted again with ethyl acetate, and the combined organic phases were washed with saturated NaCl solution, dried (sodium sulfate) and concentrated in vacuo. The residue was washed with diethyl ether, filtered and dried.

reactant | Methyl 1-(4-methoxyphenylsulfonyl)indoline-2-carboxylate | 135.6 mmol, 47.1 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CC2=CC=CC=C12)C(=O)OC | C17H17NO5S
reactant | methanol dioxane | 203.4 mmol, 4 M, 1,1020 ml, 1.5 eq. | CO.O1CCOCC1
reactant | NaOH | 610.2 mmol, 4 M, 153 ml, 4.5 eq. | [OH-].[Na+]
product | 1-(4-Methoxyphenylsulfonyl)indoline-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(CC2=CC=CC=C12)C(=O)O | C16H15NO5S
